US05801287
2b) Preparation of 1,3-bis[bis(4-dimethylaminophenyl)phosphino]propane
12.0 g (19.5 mmol) of 1,3-bis[bis(4-dimethylaminophenyl)phosphinyl]propane and 24 ml (100 mmol) of tri-n-butylamine are initially charged in 80 ml of o-xylene in an argon atmosphere while stirring. 14.4 ml (100 mmol) of phenyldichlorosilane are slowly added dropwise. The mixture is heated to 145° C., stirred for 6 hours and the solvent is distilled off under reduced pressure. Cooling the clear solution results in formation of colorless crystals which are filtered off. The crystals obtained are suspended in 100 ml of degassed o-xylene and extracted with 20 ml of 2N sodium hydroxide solution. The organic phase is separated off, dried with sodium sulphate and evaporated under reduced pressure. This gives 10.8 g of colorless solid, corresponding to a yield of 95%.

reactant | 1,3-bis[bis(4-dimethylaminophenyl)phosphinyl]propane | 19.5 mmol, 12.0 g | CN(C1=CC=C(C=C1)P(=O)(CCCP(=O)(C1=CC=C(C=C1)N(C)C)C1=CC=C(C=C1)N(C)C)C1=CC=C(C=C1)N(C)C)C | C35H46N4O2P2
reactant | tri-n-butylamine | 100 mmol, 24 ml | C(CCC)N(CCCC)CCCC | C12H27N
reactant | phenyldichlorosilane | 100 mmol, 14.4 ml | C1(=CC=CC=C1)[SiH](Cl)Cl | C6H6Cl2Si
solvent | o-xylene | 80 ml | CC=1C=CC=CC1C | C8H10
solvent | o-xylene | 100 ml | CC=1C=CC=CC1C | C8H10
product | 1,3-bis[bis(4-dimethylaminophenyl)phosphino]propane | yield of 95% | CN(C1=CC=C(C=C1)P(CCCP(C1=CC=C(C=C1)N(C)C)C1=CC=C(C=C1)N(C)C)C1=CC=C(C=C1)N(C)C)C | C35H46N4P2
